US06826033B2
To a solution of (2S)-3-(4-aminophenyl)-2-[[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]-1-propanol (2.78 g) in tetrahydrofuran (28.0 ml) was added di-tert-butyl dicarbonate (1.99 ml) and the solution was stirred at room temperature for 20 hours. The solvent was removed by evaporation and the residue was chromatographed on silica gel (eluent: hexane/ethyl acetate=1/1) to give tert-butyl N-[(1S)-1-(4-aminobenzyl)-2-hydroxyethyl]-N-[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]carbamate (1.57 g) as a pale yellow solid.

reactant | (2S)-3-(4-aminophenyl)-2-[[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]-1-propanol | 2.78 g | NC1=CC=C(C=C1)C[C@@H](CO)NC[C@H](O)C1=CC(=CC=C1)Cl | C17H21ClN2O2
reactant | di-tert-butyl dicarbonate | 1.99 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 28.0 ml | O1CCCC1 | C4H8O
product | tert-butyl N-[(1S)-1-(4-aminobenzyl)-2-hydroxyethyl]-N-[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]carbamate | 1.57 g | NC1=CC=C(C[C@@H](CO)N(C(OC(C)(C)C)=O)C[C@H](O)C2=CC(=CC=C2)Cl)C=C1 | C22H29ClN2O4
